US08076488B2
Step 1: Preparation of 5-(4-Aminophenoxy)nicotinic acid methyl ester
The title compound was prepared in the same manner described 5-(4-Amino-3-fluorophenoxy)nicotinic acid methyl ester, substituting 4-aminophenol for 4-amino-3-fluorophenol. 1H NMR (DMSO-d6) δ 8.71 (s, 1H), 8.54 (d, J=2.9 Hz, 1H), 7.47 (t, J=1.9 Hz, 1H), 6.85 (d, J=8.7 Hz, 2H), 6.61 (d, J=8.7 Hz, 2H), 5.12 (br, 2H), 3.81 (s, 3H); MS LC-MS [M+H]+=245.2, RT=1.08 min.

reactant | 5-(4-Amino-3-fluorophenoxy)nicotinic acid methyl ester | COC(C1=CN=CC(=C1)OC1=CC(=C(C=C1)N)F)=O | C13H11FN2O3
reactant | 4-amino-3-fluorophenol | NC1=C(C=C(C=C1)O)F | C6H6FNO
product | 5-(4-Aminophenoxy)nicotinic acid methyl ester | COC(C1=CN=CC(=C1)OC1=CC=C(C=C1)N)=O | C13H12N2O3
